US06455528B1
(4) N-{[4-(1-Chloroethyl)phenyl]methyl}acetamide
A solution of N-{[4-(1-hydroxyethyl)phenyl]methyl}acetamide (5.7 g) and thionyl chloride (2.6 ml) in chloroform (50 ml) was refluxed under heating for 1.5 hr. The solvent was evaporated to give a brown oil (6.7 g). The obtained brown oil was purified by silica gel column chromatography (developing solvent; chloroform:methanol=20:1) to give the title compound (5.5 g) as a pale-brown oil.

reactant | N-{[4-(1-hydroxyethyl)phenyl]methyl}acetamide | 5.7 g | OC(C)C1=CC=C(C=C1)CNC(C)=O | C11H15NO2
reactant | thionyl chloride | 2.6 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{[4-(1-Chloroethyl)phenyl]methyl}acetamide | 6.7 g | ClC(C)C1=CC=C(C=C1)CNC(C)=O | C11H14ClNO
